US08076336B2
6-Ethoxy-[1,2,4]triazolo[4,3-b]-pyridazin-3-ylamine
6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine (W2.001a, 616 mg) was dissolved in absolute ethanol (40 ml) and admixed with portions of solid sodium ethoxide (990 mg). After stirring at 55° C. for 2 h, water was added and the aqueous phase was extracted three times with dichloromethane. The combined extracts were dried over sodium sulfate, filtered and concentrated. 709 mg of crude product of the desired compound were obtained in sufficient purity.

reactant | 6-Chloro-[1,2,4]triazolo[4,3-b]pyridazin-3-ylamine | 616 mg | ClC=1C=CC=2N(N1)C(=NN2)N | C5H4ClN5
reactant | sodium ethoxide | 990 mg | [O-]CC.[Na+]
reactant | water | O | H2O
solvent | ethanol | 40 ml | C(C)O | C2H6O
product | 6-Ethoxy-[1,2,4]triazolo[4,3-b]-pyridazin-3-ylamine | 709 mg | C(C)OC=1C=CC=2N(N1)C(=NN2)N | C7H9N5O
